US05073544
A suspension of 2.30g (57.0 mmol) of sodium hydride (60% oil dispersion) in dry tetrahydrofuran (THF) and 5.0 g (57.0 mmol) of morpholine was refluxed under nitrogen for 30 minutes. After cooling, 12.56 g (57.0 mmol) of dodecanoyl chloride in THF was added dropwise, and the mixture was refluxed 30 minutes. Water was added, and the mixture was extracted with ethyl acetate (EtOAc). The combined organic phase was dried with MgSO4, concentrated in vacuo, and purified by flash chromatography (8:1 hexane/EtOAc) to give N-(oxododecyl)morpholine, as confirmed by NMR & IR spectroscopy.

reactant | sodium hydride | 57.0 mmol, 2.30g | [H-].[Na+]
reactant | morpholine | 57.0 mmol, 5.0 g | N1CCOCC1 | C4H9NO
reactant | dodecanoyl chloride | 57.0 mmol, 12.56 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(oxododecyl)morpholine | O=CCCCCCCCCCCCN1CCOCC1 | C16H31NO2
